US08748596B2
(6-Chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone
To a solution of (6-chloro-pyridin-3-yl)[1,4]diazepan-1-yl-methanone (255.1 g, 1.06 mol) in dichloroethane (3.0 L) was added cyclobutanone (108.1 mL, 1.45 mol). After a 1 h aging period, sodium triacetoxyborohydride (308.2 g, 1.45 mol) was added in four equal portions over 1.5 h. The resulting mixture was allowed to stir for 20 h, then quenched with 2.5 L of an aqueous solution containing NaOH (141.3 g, 3.53 mol). After stirring for 30 minutes, the layers were separated and the organic dried with magnesium sulfate, filtered, and concentrated to yield the title compound as an oil.

reactant | (6-chloro-pyridin-3-yl)[1,4]diazepan-1-yl-methanone | 1.06 mol, 255.1 g | ClC1=CC=C(C=N1)C(=O)N1CCNCCC1 | C11H14ClN3O
reactant | cyclobutanone | 1.45 mol, 108.1 mL | C1(CCC1)=O | C4H6O
reactant | sodium triacetoxyborohydride | 1.45 mol, 308.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 3.53 mol, 141.3 g | [OH-].[Na+]
solvent | dichloroethane | 3.0 L | ClC(C)Cl | C2H4Cl2
product | (6-Chloro-pyridin-3-yl)-(4-cyclobutyl-[1,4]diazepan-1-yl)-methanone | ClC1=CC=C(C=N1)C(=O)N1CCN(CCC1)C1CCC1 | C15H20ClN3O
